US03987047
9-Amino-10-bromo-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride was prepared from 9-amino-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride by bromination with an equimolar quantity of bromine analogous to Example 148.

reactant | 9-amino-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride | Cl.Cl.NC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C
reactant | bromine | BrBr | Br2
product | 9-Amino-10-bromo-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride | Cl.Cl.NC1=C(C=2C(=C3C(=NC2C=C1)CCNCC3)C)Br | InChI=1S/C14H16BrN3.2ClH/c1-8-9-4-6-17-7-5-11(9)18-12-3-2-10(16)14(15)13(8)12;;/h2-3,17H,4-7,16H2,1H3;2*1H
